US07723369B2
{4-[2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-ylmethyl]-phenylamino}-acetic acid methyl ester (1.4 g, 2.5 mmol) was coupled with 4-sec-butyl phenyl-boronic acid (600 mg, 3.3 mmol) following general procedure G to give {4-[2-(4′-sec-butyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-ylmethyl]-phenylamino}-acetic acid methyl ester.

reactant | {4-[2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-ylmethyl]-phenylamino}-acetic acid methyl ester | 2.5 mmol, 1.4 g | COC(CNC1=CC=C(C=C1)CN1C(=NC(=C1)C1=C(C=C(C=C1)Cl)Cl)CC1=CC=C(C=C1)Br)=O | C26H22BrCl2N3O2
reactant | 4-sec-butyl phenyl-boronic acid | 3.3 mmol, 600 mg | C(C)(CC)C1=CC=C(C=C1)B(O)O | C10H15BO2
product | {4-[2-(4′-sec-butyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-ylmethyl]-phenylamino}-acetic acid methyl ester | COC(CNC1=CC=C(C=C1)CN1C(=NC(=C1)C1=C(C=C(C=C1)Cl)Cl)CC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)CC)=O | C36H35Cl2N3O2
